US09163012B2
To a solution of tert-butyl 3-(4-methylthiazol-2-yl)pyrrolidine-1-carboxylate (90 mg, 0.34 mmol) in TFA/CH2Cl2 (20%, 2 mL) was stirred at rt for 1 h and concentrated to give 4-methyl-2-(pyrrolidin-3-yl)thiazole (55 mg, 98%) as a yellow oil.

reactant | tert-butyl 3-(4-methylthiazol-2-yl)pyrrolidine-1-carboxylate | 0.34 mmol, 90 mg | CC=1N=C(SC1)C1CN(CC1)C(=O)OC(C)(C)C | C13H20N2O2S
solvent | TFA CH2Cl2 | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | 4-methyl-2-(pyrrolidin-3-yl)thiazole | 55 mg, 98% | CC=1N=C(SC1)C1CNCC1 | C8H12N2S
